2116-05-26 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2116-5-25**] 09:30 AM
   Renal U/S
 MULTI LUMEN - START [**2116-5-25**] 02:29 PM
 ARTERIAL LINE - START [**2116-5-25**] 03:25 PM
 BRONCHOSCOPY - At [**2116-5-25**] 05:30 PM
 BAL FLUID CULTURE - At [**2116-5-25**] 05:40 PM
 FEVER - 103.5
F - [**2116-5-26**] 12:00 AM
   [**5-25**]
   - Vanc level therapeutic
   - OG tube ok to use
   - Metoprolol discontinued given low-running BP
   - RIJ and left a-line placed
   - Bronched
   - Urine lytes c/w prerenal FEUrea 23; urine smear neg for eos. Given 1L
   bolus x 2 with improvement in U/O.
   - Renal c/s: Likely CRF [**1-13**] mult myeloma. Check urine:protein; renal
   U/S. Urine not c/w ATN. ?AIN to abx but unlikely.
   - Renal U/S: no hydronephrosis or nephrolithiasis.
   - Noted to have right pupil slightly larger than left pupil; both
   constricting but ?more sluggish in right. Limited neuro exam nonfocal.
   B/l tremors thought to be [**1-13**] fever.
   - SBP decreased in setting of increased propofol for lines. Became more
   [**Month/Day (2) 991**] with HR 120s and SBP 80s -> given lopressor 5mg IV x 1 with
   improvement in both HR and SBP. Increased tachycardia to 140s in
   setting of fever -> started esmolol gtt -> weaned off in setting of
   increased sedation.
   - TSH 1.1
   - Pt overbreathing vent so sedation changed from propofol to
   fent/midaz. Skin mottled-appearing. ABG 7.2/52/80. Sedation increased
   with repeat ABG 7.23/50/80. CXR still w/ diffuse R lung opacities.
   Started levofloxacin for atyicals and double coverage of GNR. Sedation
   further increased, RR increased 20->25, PEEP increased 8->15, and FiO2
   increased 50->60% with repeat ABG 7.32/39/142
   - Greatly diminished UO with rising Cr but lactate 0.8 and CvO2 74%.
   Given 500cc bolus trial but still without UO.
   - Started tube feeds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2116-5-25**] 08:06 PM
   Levofloxacin - [**2116-5-26**] 12:29 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5.5 mg/hour
   Phenylephrine - 1.2 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2116-5-25**] 06:26 PM
   Dextrose 50% - [**2116-5-25**] 10:46 PM
   Lansoprazole (Prevacid) - [**2116-5-25**] 11:06 PM
   Midazolam (Versed) - [**2116-5-26**] 02:30 AM
   Fentanyl - [**2116-5-26**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-5-26**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.8
C (100.1
   HR: 85 (71 - 125) bpm
   BP: 82/45(58) {81/45(57) - 139/73(90)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 10 (10 - 22)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  3,757 mL
                                                                  1,279 mL
   PO:
   TF:
                                                                     80 mL
   IVF:
                                                                  3,592 mL
                                                                  1,039 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                      0 mL
   Urine:
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                  1,279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.30/36/101/18/-7
   Ve: 11.2 L/min
   PaO2 / FiO2: 168
                                                                    06:22a
   _______________________________________________________________________
                                     pH
                                    7.30
                                    pCO2
                                     36
                                     pO2
                                     101
                                    HCO3
                                     18
                                   BaseXS
                                     -7
   Type:Art; Intubated; FiO2%:60; Rate:25/; TV:450; PEEP:15;
   Mode:Assist/Control; Temp:37.9
   Lactate:0.8
   Physical Examination
   GEN: intubated, NAD
   HEENT:
   CV:
   PULM:
   ABD:
   EXTR:
   Labs / Radiology
   84 K/uL
   8.4 g/dL
   85 mg/dL
   4.3 mg/dL
   18 mEq/L
   4.3 mEq/L
   56 mg/dL
   109 mEq/L
   137 mEq/L
   25.2 %
   2.4 K/uL
        [image002.jpg]
   CK: 391
   MB: 2
   Trop-T: 0.06
   Ca: 5.7 Mg: 1.9 P: 4.6
   PT: 33.2
   PTT: 49.3
   INR: 3.4
   CV O2  - 74
                             [**2116-5-25**]  08:49 AM
                             [**2116-5-25**]  03:58 PM
                             [**2116-5-25**]  07:53 PM
                             [**2116-5-25**]  10:19 PM
                             [**2116-5-25**]  11:05 PM
                             [**2116-5-25**]  11:53 PM
                             [**2116-5-26**]  12:35 AM
                             [**2116-5-26**]  03:33 AM
                             [**2116-5-26**]  04:29 AM
                             [**2116-5-26**]  06:22 AM
   WBC
   2.4
   Hct
   25.2
   Plt
   84
   Cr
   3.4
   4.2
   4.3
   TropT
   0.06
   TCO2
   25
   22
   21
   22
   21
   20
   18
   Glucose
   100
   110
   85
   Other labs: PT / PTT / INR:33.2/49.3/3.4, CK / CKMB /
   Troponin-T:391/2/0.06, ALT / AST:59/51, Alk Phos / T Bili:48/0.4,
   Differential-Neuts:72.0 %, Band:0.0 %, Lymph:28.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, Ca++:5.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   BAL: 1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
           Cx
 pending
   RENAL U/S:
   IMPRESSION: No evidence of hydronephrosis or nephrolithiasis
   bilaterally, as
   questioned.
   Assessment and Plan
   84M with h/o COPD, CAD, PE, recently transferred out of the MICU with
   presumed CAP, now transferred back to the MICU for persistent fevers,
   tachypnea, and hypotension.
   .
   # fever/hypotension - most concerning for brewing septic picture.  CXR
   now with PNA involving entire R lung, concerning for ARDS.  Lactate
   remains normal, but with metabolic acidosis and minimal urine output.
   Hypotensive overnight requiring pressors.  A-line/CVL placed
   - Continue vanc/[**Last Name (un) **].
   - Maintain MAP>55, CVP>12
   - F/u  UCx, Sputum Cx, BCx.
   - Wean pressors as tolerated.
   .
   # Resp failure: Likely CAP with disease involving entire R lung.
   Currently with [**Doctor Last Name 2**] based on gas.
   - continue Vanc/[**Last Name (un) **]
   - decrease vent settings as tolerated
   - f/u sputum cx
   - Bronch today
   .
   # Metabolic non-gap acidosis: Patient with pH of 7.30 this am, nl PCO2.
   Consider [**1-13**] to renal failure.
   - Increase respiratory rate to compensate
   .
   # ARF: Renal consulted and suggests ARF related to multiple myeloma as
   urine sediment not consistent with intrinsic renal (ATN). Also consider
   AIN related.  Renal U/S without hydronephrosis.  Rapidly worsening
   overnight with minimal UOP
   - F/u Renal recs
   .
   # pancytopenia - at her baseline currently, WBC trended up slightly
   2.3->3.1.
   - trend CBC.
   .
   # chest pain - h/o CAD s/p left LAD stent. ECG with some dynamic t-wave
   changes, ruled out earlier in hospitalization.  Chest pain appeared to
   resolve with rate control.
   - continue aspirin, metoprolol, lipitor.
   - cycle CE x 2 sets.
   - goal HCT > 30 if evidence of ischemia.
   .
   # atrial fibrillation - currently in afib, on coumadin for h/o PE,
   though CHADs=1. s/p PPM for sick sinus syndrome.  metoprolol dose
   increased to 25mg po tid on [**5-24**].
   - hold metoprolol for now given ?hypotension, if [**Last Name (LF) 991**], [**First Name3 (LF) 116**] cautiously
   reintroduce metoprolol for goal HR 60s.
   - hold coumadin, goal INR >2.0.
   .
   # h/o PE - remote per pt, on coumadin, though this could be for afib.
   negative v/q upon admission.
   - hold coumadin with supratherapeutic INR.
   .
   # anemia - baseline hct ~24, attributed to myeloma and CLL.  no
   evidence of significant ischemia on ECG presently, so will hold off on
   further transfusion.  HCT currently 26.
   - transfuse for HCT > 30 if evidence of ischemia, otherwise >21.
   - trend HCT.
   - continue folate, iron, b12 repletion.
   .
   # multipe myeloma - long standing, failed alkeran/prednisone, started
   on velcade on [**2116-5-14**], followed at [**Company 1794**].
   - hold velcade for now.
   .
   # CLL - baseline WBC 2.0-2.3 over last year. currently at baseline.
   .
   # FEN: TF, No IVF, cardiac diet
   .
   # Prophylaxis: pneumoboots, ppi (at home dose).
   .
   # Communication: Patient, son [**Name (NI) **] [**Name (NI) **] (HCP), [**Telephone/Fax (1) 6669**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2116-5-26**] 12:37 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-5-25**] 02:29 PM
   Arterial Line - [**2116-5-25**] 03:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2116-05-27 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2116-5-26**] 03:00 PM
   [**5-26**]
   - PCP and oncologist ([**Last Name (un) 6721**]) called and updated. Both commented that
   MM worsening over last few weeks
   - Remains anuric with increasing pressor requirement. Vasopressin
   started but Neo still required.
   - Extremities remain mottled with barely dopplerable pulses.
   - Son was updated on his poor status and is reasonable.  His sister
   will come in tomorrow and he will likely move toward CMO.
   - EP consulted re: ppm and stated it's working fine but seems not to
   capture because he's in a-fib.
   - A-line dampened so cuff pressures used to titrate.
   - Drew ABG and VBG for correlation. ABG 7.23/42/98 with O2 96 and
   lactate 1.2; VBG 7.20/52/47 and CVO2 70%.
   - Influenza A positive, started on oseltamivir.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-5-26**] 12:54 PM
   Meropenem - [**2116-5-26**] 08:15 PM
   Levofloxacin - [**2116-5-27**] 12:15 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2116-5-26**] 10:00 PM
   Metoprolol - [**2116-5-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-5-27**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.3
   HR: 83 (75 - 129) bpm
   BP: 99/55(72) {77/45(58) - 132/74(96)} mmHg
   RR: 25 (22 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 13 (10 - 21)mmHg
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  3,957 mL
                                                                    823 mL
   PO:
   TF:
                                                                    640 mL
                                                                    291 mL
   IVF:
                                                                  2,873 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                     23 mL
                                                                      0 mL
   Urine:
                                                                     13 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  3,934 mL
                                                                    823 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.23/42/98.[**Numeric Identifier 500**]/17/-9
   Ve: 10.9 L/min
   PaO2 / FiO2: 196
   Physical Examination
   GEN: intubated, NAD
   HEENT: NC/AT dry MM. Intubated.
   CV: Irregularly irregular.
   PULM: Crackles on right. CTA on left
   ABD: + BS soft. NT
   EXTR: mottled bilateral lower extremities with dopplerable DP pulses
   NEURO: Sedated
   Labs / Radiology
   60 K/uL
   8.3 g/dL
   206 mg/dL
   5.8 mg/dL
   17 mEq/L
   5.1 mEq/L
   73 mg/dL
   105 mEq/L
   134 mEq/L
   26.0 %
   1.3 K/uL
        [image002.jpg]
                             [**2116-5-25**]  11:53 PM
                             [**2116-5-26**]  12:35 AM
                             [**2116-5-26**]  03:33 AM
                             [**2116-5-26**]  04:29 AM
                             [**2116-5-26**]  06:22 AM
                             [**2116-5-26**]  03:09 PM
                             [**2116-5-26**]  03:31 PM
                             [**2116-5-26**]  10:27 PM
                             [**2116-5-27**]  01:55 AM
                             [**2116-5-27**]  04:07 AM
   WBC
   2.4
   1.3
   Hct
   25.2
   26.0
   Plt
   84
   60
   Cr
   4.2
   4.3
   5.1
   5.4
   5.8
   TropT
   0.06
   0.06
   TCO2
   21
   20
   18
   21
   18
   Glucose
   110
   85
   148
   206
   Other labs: PT / PTT / INR:33.2/49.3/3.4, CK / CKMB /
   Troponin-T:599/2/0.06, ALT / AST:59/51, Alk Phos / T Bili:48/0.4,
   Differential-Neuts:72.0 %, Band:0.0 %, Lymph:28.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   84M with h/o COPD, CAD, PE, recently transferred out of the MICU with
   presumed CAP, now transferred back to the MICU for persistent fevers,
   tachypnea, and hypotension.
   .
   # Septic Shock with MOF:  CXR now with PNA involving entire R lung,
   concerning for ARDS.  Lactate remains normal, but with metabolic
   acidosis and minimal urine output.  Hypotensive overnight requiring
   pressors.  A-line/CVL placed.
   - Concerned for empyema as continues to be febrile and continues to
   have shock. U/S lung today for drainable effusion.
   - Continue vanc/[**Last Name (un) **].
   - Maintain MAP>55, CVP>12
   - F/u  UCx, Sputum Cx, BCx, bronch cultures
   - Start vasopressin to try to wean neo as tolerated.
   # Resp failure: Likely CAP with disease involving entire R lung and as
   above concern for empyema.  Currently with [**Doctor Last Name 2**] based on gas.
   - continue Vanc/[**Last Name (un) **]
   - decrease peep as tolerated now that sedated and not fighting vent
   - f/u sputum cx and bronch cultures
   - ultrasound today for possible thoracentesis if drainable empyema
   - Try lying on left side to aerate diseased lung better
   # Metabolic non-gap acidosis: Patient with pH of 7.30 this am, nl PCO2.
   Consider [**1-13**] to renal failure.
   - Increase respiratory rate to compensate
   # ARF: Renal consulted and suggests ARF related to multiple myeloma as
   urine sediment not consistent with intrinsic renal (ATN). Also consider
   AIN related.  Renal U/S without hydronephrosis.  Rapidly worsening
   overnight with minimal UOP
   - F/u Renal recs
   - Try vasopressin for better forward flow
   - Discuss with family CVVH
   - [**Hospital1 **] lytes
   # atrial fibrillation - currently in afib, on coumadin for h/o PE,
   though CHADs=1. s/p PPM for sick sinus syndrome.
   - holding metoprolol for now given ?hypotension
   - hold coumadin, goal INR >2.0.
   - Using neo for pressor as less tachycardia
   - PPM may not be sensing. Will cls EP to interrogate today.
   # h/o PE - remote per pt, on coumadin, though this could be for afib.
   negative v/q upon admission.
   - hold coumadin with supratherapeutic INR.
   # anemia - baseline hct ~24, attributed to myeloma and CLL.  no
   evidence of significant ischemia on ECG presently and appears slightly
   volume overloaded, so will hold off on further transfusion.
   - transfuse for HCT > 25
   - trend HCT.
   - continue folate, iron, b12 repletion.
   # FEN: TF, No IVF, cardiac diet
   # Prophylaxis: pneumoboots, ppi (at home dose).
   # Communication: Patient, son [**Name (NI) **] [**Name (NI) **] (HCP), [**Telephone/Fax (1) 6669**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2116-5-27**] 02:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-5-25**] 02:29 PM
   Arterial Line - [**2116-5-25**] 03:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-05-28 04:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Made CMO which for family means no pressors but continue intubation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-5-26**] 12:54 PM
   Levofloxacin - [**2116-5-27**] 12:15 AM
   Meropenem - [**2116-5-27**] 08:00 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-5-28**] 04:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 127 (81 - 127) bpm
   BP: 74/49(56) {66/46(53) - 110/64(80)} mmHg
   RR: 24 (23 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 16 (12 - 16)mmHg
   Total In:
                                                                  3,103 mL
                                                                    431 mL
   PO:
   TF:
                                                                  1,379 mL
                                                                    281 mL
   IVF:
                                                                  1,349 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                     37 mL
                                                                      0 mL
   Urine:
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,066 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 50%
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.20/46/92.[**Numeric Identifier 641**]/16/-9
   Ve: 11.6 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   60 K/uL
   8.3 g/dL
   182 mg/dL
   6.3 mg/dL
   16 mEq/L
   5.2 mEq/L
   78 mg/dL
   103 mEq/L
   130 mEq/L
   26.0 %
   1.3 K/uL
        [image002.jpg]
                             [**2116-5-26**]  03:33 AM
                             [**2116-5-26**]  04:29 AM
                             [**2116-5-26**]  06:22 AM
                             [**2116-5-26**]  03:09 PM
                             [**2116-5-26**]  03:31 PM
                             [**2116-5-26**]  10:27 PM
                             [**2116-5-27**]  01:55 AM
                             [**2116-5-27**]  04:07 AM
                             [**2116-5-27**]  02:38 PM
                             [**2116-5-27**]  03:06 PM
   WBC
   2.4
   1.3
   Hct
   25.2
   26.0
   Plt
   84
   60
   Cr
   4.3
   5.1
   5.4
   5.8
   6.3
   TropT
   0.06
   0.06
   0.03
   TCO2
   20
   18
   21
   18
   19
   Glucose
   85
   148
   206
   182
   Other labs: PT / PTT / INR:52.6/61.6/5.8, CK / CKMB /
   Troponin-T:599/2/0.03, ALT / AST:59/51, Alk Phos / T Bili:48/0.4,
   Differential-Neuts:20.0 %, Band:0.0 %, Lymph:80.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   84M with h/o COPD, CAD, PE, recently transferred out of the MICU with
   presumed CAP, now transferred back to the MICU for persistent fevers,
   tachypnea, and hypotension.
   .
   # Septic Shock with multi-organ failure: Influenza A positive with CXR
   showing infiltrates involving entire R lung with P:F ratio 163
   suggestive of ARDS. Lactate remains normal, but with metabolic acidosis
   and anuria. Hypotensive requiring pressors.
   - Concerned for empyema as continues to be febrile and continues to
   have shock but [**Female First Name (un) 231**] not consistent with goals of care
   - Continue vanc/[**Last Name (un) **]/oseltamivir
   - F/u pending UCx, Sputum Cx, BCx, bronch cultures.
   - Cont vasopressin and neo to maintain MAP>55, CVP>12
   # Resp failure: Influenza A with disease involving entire R lung and as
   above concern for empyema.  Currently with ARDS based on P:F ratio.
   - Continue Vanc/[**Last Name (un) **]/oseltamivir
   - Decrease PEEP as tolerated; maintain Tv at goal 6 ml/kg
   - F/u sputum cx and bronch cultures
   - Try lying on left side to aerate diseased lung better
   - Thoracentesis not consistent with goals of care
   # Leukopenia: Immunocompromised in setting of multiple myeloma and now
   with overwhelming infection.
   - Neutropenic precautions pending diff
   - Cont above abx and supportive care
   - F/u cx
   - PCP and oncologist updated and confirm worsening multiple myeloma
   # Metabolic non-gap acidosis: Worsening acidosis; likely [**1-13**] to renal
   failure.
   # ARF: Likely related to multiple myeloma as urine sediment not
   consistent with intrinsic renal (ATN). Also consider AIN related.
   Renal U/S without hydronephrosis.  Rapidly worsening overnight with
   minimal UOP
   - F/u Renal recs
   - Unable to transition off neo despite vasopressin
   - CVVH not c/w goals of care
   - [**Hospital1 **] lytes
   - Phos binders
   # Atrial fibrillation: Currently in afib, on coumadin at home for h/o
   PE, though CHADs=1. S/p PPM for sick sinus syndrome which is
   functioning but not capturing while in Afib per EP.
   - Appreciate EP recs
   - Holding metoprolol given hypotension
   - Hold coumadin; rising INR likely [**1-13**] end-organ damage
   - Using vasopressin/neo for pressors
   # Anemia: Stable. Baseline Hct ~24, attributed to myeloma and CLL. No
   evidence of significant ischemia on ECG presently and appears slightly
   volume overloaded, so will hold off on further transfusion.
   - Transfuse for HCT >21
   - Trend HCT
   - Continue folate, iron, b12 repletion.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2116-5-28**] 02:20 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-5-25**] 02:29 PM
   Arterial Line - [**2116-5-25**] 03:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: